US05280027
Thionyl chloride (1.11 ml) and 3-amino-3-(3-nitrophenyl)propionic acid (0.7 g) were added in turn to stirred methanol (5 ml) which had been cooled -20° C. The mixture was stirred at -20° C. for 10 minutes and at laboratory temperature for 16 hours. The mixture was evaporated to give methyl 3-amino-3-(3-nitrophenyl)propionate (0.83 g), as a solid.

reactant | Thionyl chloride | 1.11 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-amino-3-(3-nitrophenyl)propionic acid | 0.7 g | NC(CC(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H10N2O4
reactant | methanol | 5 ml | CO | CH4O
product | methyl 3-amino-3-(3-nitrophenyl)propionate | 0.83 g | NC(CC(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C10H12N2O4
